US05677305
First, a mixture containing 246 mg of 4-cyano-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine, 294 mg of oxalic acid, and 5 ml of 2N hydrochloric acid was refluxed by heating in an oil bath for 2 hours. The mixture was cooled and precipitated crystals were filtered. Then, 284 g of the crude crystals thus obtained were further recrystallized with 2N hydrochloric acid to give 201 mg of 6-cyano-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 4-cyano-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine | 246 mg | C(#N)C1=CC(=C(C=C1N1C=CC(C=C1)=O)N)N | C12H10N4O
reactant | oxalic acid | 294 mg | C(C(=O)O)(=O)O | C2H2O4
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
product | 6-cyano-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 201 mg | C(#N)C=1C=C2NC(C(NC2=CC1N1C=CC(C=C1)=O)=O)=O | C14H8N4O3
